US05232939
7-(4-Aminophenyl)-6-methyl-1H-imidazo[1,2-b]-pyrazole hydrochloride
A mixture of 2.5 g of 2-(4-t-butoxycarbonylaminophenyl)-3-oxobutyronitrile, 20 ml of ethanol and 1.4 g of 2,2-diethoxyethylhydrazine was heated under reflux for 2 hours. 20 ml of 4N hydrogen chloride in dioxane were added, and then the whole mixture was heated under reflux for a further 30 minutes. After the mixture had been cooled, ethyl acetate was added to precipitate crystals. These crystals were collected by filtration and recrystallized from ethanol to give 1.4 g of the title compound as pale brown plates melting at 180°-190° C.

reactant | 2-(4-t-butoxycarbonylaminophenyl)-3-oxobutyronitrile | 2.5 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C(C#N)C(C)=O | C15H18N2O3
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 2,2-diethoxyethylhydrazine | 1.4 g | C(C)OC(CNN)OCC | C6H16N2O2
reactant | hydrogen chloride | 4N, 20 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(4-Aminophenyl)-6-methyl-1H-imidazo[1,2-b]-pyrazole hydrochloride | 1.4 g | Cl.NC1=CC=C(C=C1)C1=C2N(N=C1C)C=CN2 | InChI=1S/C12H12N4.ClH/c1-8-11(9-2-4-10(13)5-3-9)12-14-6-7-16(12)15-8;/h2-7,14H,13H2,1H3;1H
